US09216999B2
4-Chloro-1-(triisopropylsilyl)-1H-pyrrolo[2,3-b]pyridine
4-Chloro-1H-pyrrolo[2,3-b]pyridine (2.84 g, 18.6 mmol) in N,N-dimethylformamide (10 mL) and tetrahydrofuran (10 mL) was stirred with sodium hydride (55 wt % dispersion in mineral oil, 1.08 g, 27.0 mmol) under cooling with ice for 1 hour. The reaction mixture was stirred with triisopropylsilyl chloride (6.0 mL, 28 mmol) at room temperature for one day. After addition of water, the reaction mixture was warmed to room temperature and extracted with hexane twice. The resulting organic layers were combined, washed with saturated aqueous sodium chloride dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane) to give the title compound as a reddish brown oil (5.74 mg, yield 99%).

reactant | 4-Chloro-1H-pyrrolo[2,3-b]pyridine | 18.6 mmol, 2.84 g | ClC1=C2C(=NC=C1)NC=C2 | C7H5ClN2
reactant | sodium hydride | 27.0 mmol, 1.08 g | [H-].[Na+]
reactant | triisopropylsilyl chloride | 28 mmol, 6.0 mL | C(C)(C)[Si](C(C)C)(C(C)C)Cl | C9H21ClSi
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 4-Chloro-1-(triisopropylsilyl)-1H-pyrrolo[2,3-b]pyridine | 5.74 mg, yield 99% | ClC1=C2C(=NC=C1)N(C=C2)[Si](C(C)C)(C(C)C)C(C)C | C16H25ClN2Si
